US07160901B2
b. (Z)-3-{1-[4-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-phenylamino)-1-phenyl-methylidene}-5-(N-methyl-N-phenylsulphonyl-amino)-2-indolinone
Prepared analogously to Example 1f from 350 mg (0.73 mmol) of (Z)-1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-(N-methyl-N-phenylsulphonyl-amino)-2-indolinone and 257 mg (1 mmol) of 4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-aniline in DMF and subsequent treatment with sodium hydroxide solution.

reactant | (Z)-1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-5-(N-methyl-N-phenylsulphonyl-amino)-2-indolinone | 0.73 mmol, 350 mg | C(C)(=O)N1C(\C(\C2=CC(=CC=C12)N(S(=O)(=O)C1=CC=CC=C1)C)=C(\C1=CC=CC=C1)/OCC)=O | C26H24N2O5S
reactant | 4-[N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino]-aniline | 1 mmol, 257 mg | CN(CCN(S(=O)(=O)C)C1=CC=C(N)C=C1)C | C11H19N3O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | (Z)-3-{1-[4-(N-(2-dimethylamino-ethyl)-N-methylsulphonyl-amino)-phenylamino)-1-phenyl-methylidene}-5-(N-methyl-N-phenylsulphonyl-amino)-2-indolinone | CN(CCN(S(=O)(=O)C)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=C(C=C12)N(S(=O)(=O)C1=CC=CC=C1)C)=O)C | C33H35N5O5S2
